US08222416B2
To a mixture of 1-benzenesulfonyl-5-chloromethyl-1H-pyrrolo[2,3-b]pyridine (3.3 g, 10.76 mmol) in methanol (15 mL) was added sodium methoxide (1.74 g, 32.3 mmol) at room temperature and the resulting mixture was stirred for 12 h. The mixture was diluted with ethyl acetate (250 mL), washed with brine, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 5-methoxymethyl-1H-pyrrolo[2,3-b]pyridine (1.74 g, quant.) as a light yellow solid which was used in the next step without further purification: LC/MS m/e calcd for C9H10N2O [M+H]+ 163.19, observed 162.9.

reactant | 1-benzenesulfonyl-5-chloromethyl-1H-pyrrolo[2,3-b]pyridine | 10.76 mmol, 3.3 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)CCl | C14H11ClN2O2S
reactant | sodium methoxide | 32.3 mmol, 1.74 g | C[O-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 5-methoxymethyl-1H-pyrrolo[2,3-b]pyridine | 1.74 g | COCC=1C=C2C(=NC1)NC=C2 | C9H10N2O
